US08563541B2
Step 1: 5-(difluoromethyl)-3-methyl-4,5-dihydro-1H-pyrazol-5-ol
To a solution of 1,1-difluoropentane-2,4-dione (2.5 g, 0.018 mol) in tetrahydrofuran (32 mL) was added hydrazine hydrate (0.98 mL, 0.020 mol) in tetrahydrofuran (32 mL) dropwise. The reaction was stirred at 25° C. for 16 hours and then concentrated in vacuo. The residue was used in the next reaction without further purification. 1H NMR (CDCl3): δ 5.68-5.96 (t, 1H), 5.50-5.80 (br s, 1H), 2.98 (dd, 1H), 2.68 (dd, 1H), 2.01 (s, 3H).

reactant | 1,1-difluoropentane-2,4-dione | 0.018 mol, 2.5 g | FC(C(CC(C)=O)=O)F | C5H6F2O2
reactant | hydrazine hydrate | 0.020 mol, 0.98 mL | O.NN
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | 5-(difluoromethyl)-3-methyl-4,5-dihydro-1H-pyrazol-5-ol | FC(C1(CC(=NN1)C)O)F | C5H8F2N2O
